US04581168
1. Boc-Ser-Ala-Ome
25 g of H-Ala-OMe, HCl and 66 g. of Boc-Ser-ONb are dissolved in 500 ml DMF. The product is cooled in an ice bath and 25 ml of NEM, 24 g of N-hydroxy benzotriazole are added with magnetic stirring and the pH is maintained at 6.5 or 7 by addition of NEM. The product is stirred for 18 hrs. at ambient temperature. After TLC monitoring, the medium is evaporated to 90% (0.1 mm Hg--35° C.). The oil obtained is dissolved in 1.500 ml of chloroform, the product is washed with a solution of saturated sodium chloride (twice), 5% sulfate/potassium bisulfate solution (3 times), saturated sodium bicarbonate (5 times). The solution is dried over Na2SO4 and evaporated to dryness. An oil is obtained which is dried to constant weight (30°--0.1 mm Hg).

reactant | H-Ala-OMe | 25 g | N[C@@H](C)C(=O)OC | C4H9NO2
reactant | HCl | Cl | ClH
reactant | Boc-Ser-ONb | CC(C)(C)OC(=O)N[C@@H](CO)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H20N2O7
reactant | N-hydroxy benzotriazole | 24 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 1.500 ml | C(Cl)(Cl)Cl | CHCl3
product | Boc-Ser-Ala | N([C@@H](CO)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C11H20N2O6
